US07446118B2
A solution of tert-butyllithium (1.7 M in pentane, 3.42 mmol) was added at −78° C. to a mixture of 1-benzenesulfonyl-5-[2-(tert-butyl-dimethyl-silanyloxy)-1-phenyl-ethyl]-1H-indole CCLXVIII (865 mg, 1.71 mmol) and N,N,N′,N′-tetramethylethylenediamine (0.51 mL, 3.42 mmol) in tetrahydrofuran (20 mL). The resulting mixture was stirred for 1 hour and then a solution of phenyl isocyanate (300 mg, 2.565 mmol) in tetrahydrofuran (2 mL) was added dropwise at −78° C. The resulting mixture was stirred at −78° C. for 1.5 hour and at 0° C. for 1.5 hours. The reaction was then quenched by addition of a saturated aqueous solution of ammonium chloride. The resulting mixture was diluted with water and diethyl ether. The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (EtOAc/hexane, 10/90 to 20/80) to give 0.56 g (62% yield) of 1-benzenesulfonyl-5-[2-(tert-butyl-dimethyl-silanyloxy)-1-phenyl-ethyl]-1H-indole-2-carbonitrile CCLXIX.

reactant | tert-butyllithium | 3.42 mmol, 1.7 M | C(C)(C)(C)[Li]
reactant | 1-benzenesulfonyl-5-[2-(tert-butyl-dimethyl-silanyloxy)-1-phenyl-ethyl]-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C(CO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C28H33NO3SSi
reactant | N,N,N′,N′-tetramethylethylenediamine | 3.42 mmol, 0.51 mL | CN(CCN(C)C)C | C6H16N2
reactant | phenyl isocyanate | 2.565 mmol, 300 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-benzenesulfonyl-5-[2-(tert-butyl-dimethyl-silanyloxy)-1-phenyl-ethyl]-1H-indole-2-carbonitrile | 0.56 g, 62% yield | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)C(CO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)C#N | C29H32N2O3SSi
